US20010056109A1
3-(1H-imidazol-4-ylmethyl)-1-phenylindan-5-ol
A mixture of 4-(6-methoxy-3-phenylindan-1-ylmethyl)-1H-imidazole (500 mg) and 48% hydrobromic acid (20 ml) was heated at reflux for 1 hr with stirring. The cooled reaction mixture was poured into water and made basic with ammonium hydroxide solution. The resulting precipitate was filtered and washed with water. The product was purified by flash chromatography (elution with a dichloromethane—methanol gradient).

reactant | 4-(6-methoxy-3-phenylindan-1-ylmethyl)-1H-imidazole | 500 mg | COC1=CC=C2C(CC(C2=C1)CC=1N=CNC1)C1=CC=CC=C1 | C20H20N2O
reactant | hydrobromic acid | 20 ml | Br | BrH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 3-(1H-imidazol-4-ylmethyl)-1-phenylindan-5-ol | N1C=NC(=C1)CC1CC(C2=CC=C(C=C12)O)C1=CC=CC=C1 | C19H18N2O
